US08372874B2
Synthesis of 1-(2-Methoxy-ethoxymethyl)-cyclohexanecarboxylic acid ethyl ester
1-Hydroxymethyl-cyclohexanecarboxylic acid ethyl ester (2.0 g, 10.9 mmol) is added to a solution of 60% sodium hydride (0.86 g, 21.7 mmol) in 5.0 mL of DMF at 0° C. and the reaction mixture is stirred for 30 minutes; 2-bromoethyl methyl ether (3.0 g, 21.7 mmol) is added over a period of 10 minutes and then the reaction mixture is stirred at room temperature for 14 h. Ice water and 20% ethyl acetate in petroleum ether are added. The two phases are separated and the organic layer is washed with water and brine and dried over Na2SO4. After filtration the solvent is removed under reduced pressure to provide 2.0 g of the title compound as a yellow liquid that is used in the next step without further purification. m/z 245 [M+H].

reactant | 1-Hydroxymethyl-cyclohexanecarboxylic acid ethyl ester | 10.9 mmol, 2.0 g | C(C)OC(=O)C1(CCCCC1)CO | C10H18O3
reactant | sodium hydride | 21.7 mmol, 0.86 g | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 21.7 mmol, 3.0 g | COCCBr | C3H7BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 1-(2-Methoxy-ethoxymethyl)-cyclohexanecarboxylic acid ethyl ester | 2.0 g | C(C)OC(=O)C1(CCCCC1)COCCOC | C13H24O4
